US07112582B2
Step 2: 5,6,7,8-Tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid ethyl ester, Hydrochloride:
0.46 M HCl-EtOH (169 mL) and 10% Pd—C (50% wet) (1.37 g) were added to the EtOH (546 mL) solution of imidazo[1,2-a]pyrazine-2-carboxylic acid ethyl ester (13.7 g). The mixture was hydrogenated under H2 at 40 psi at room temperature for 15 h. The reaction mixture was filtered and Pd—C was washed with EtOH. The filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography, then the column was eluted with CHCl3-MeOH (9/1˜2/1). The titled compound was obtained as brown crystals Yield: 10.4 g, 63%.

reactant | HCl EtOH | 0.46 M, 169 mL | Cl.CCO
reactant | imidazo[1,2-a]pyrazine-2-carboxylic acid ethyl ester | 13.7 g | C(C)OC(=O)C=1N=C2N(C=CN=C2)C1 | C9H9N3O2
catalyst | Pd—C | 1.37 g | [Pd] | Pd
solvent | EtOH | 546 mL | CCO | C2H6O
product | 5,6,7,8-Tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid ethyl ester, Hydrochloride | Cl.C(C)OC(=O)C=1N=C2N(CCNC2)C1 | InChI=1S/C9H13N3O2.ClH/c1-2-14-9(13)7-6-12-4-3-10-5-8(12)11-7;/h6,10H,2-5H2,1H3;1H
